US08748011B2
Synthesis of 2-methoxy-N-phenylaniline
A 1 L three neck flask was charged with 2-methoxyaniline (17.65 g, 143 mmol) , bromobenzene (15 g, 96 mmol), Pd2(dba)3 (1.75 g, 1.91 mmole), S-Phos (1.56 g, 3.82 mmol), sodium tert-butoxide (18.36 g, 101 mmol) and 400 mL of xylene. The reaction mixture was refluxed for 4 hours. The product was isolated by column chromatography (5% EtOAc in hexanes) to yield the desired product. (18 g, 94%)

reactant | 2-methoxyaniline | 143 mmol, 17.65 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | bromobenzene | 96 mmol, 15 g | BrC1=CC=CC=C1 | C6H5Br
reactant | S-Phos | 3.82 mmol, 1.56 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | sodium tert-butoxide | 101 mmol, 18.36 g | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 1.91 mmole, 1.75 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | xylene | 400 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-methoxy-N-phenylaniline | COC1=C(NC2=CC=CC=C2)C=CC=C1 | C13H13NO
